US08138189B2
Step 2: 4-{3-Chloro-4-[3,3,3-trifluoro-2-hydroxy-1-methyl-2-(1-methyl-6-oxo-1,6-dihydro-pyridin-3-yl)-propyl]-phenoxy}-3-fluoro-benzoic acid
To a suspension of 4-{3-chloro-4-[3,3,3-trifluoro-2-hydroxy-1-methyl-2-(1-methyl-6-oxo-1,6-dihydro-pyridin-3-yl)-propyl]-phenoxy}-3-fluoro-benzonitrile (100 mg) in 2 M aqueous KOH solution (5.2 ml) was added dioxane (1 ml). The mixture was stirred at 90° C. for 30 minutes. Water was added and the mixture was acidified with 2 M aqueous HCl. The solid was collected by filtration, washed with water and dried to give the title compound (99 mg) as a colorless solid. MS (m/e, ISP neg. ion)=498.1 [M−H+].

reactant | 4-{3-chloro-4-[3,3,3-trifluoro-2-hydroxy-1-methyl-2-(1-methyl-6-oxo-1,6-dihydro-pyridin-3-yl)-propyl]-phenoxy}-3-fluoro-benzonitrile | 100 mg | ClC=1C=C(OC2=C(C=C(C#N)C=C2)F)C=CC1C(C(C(F)(F)F)(C1=CN(C(C=C1)=O)C)O)C | C23H17ClF4N2O3
reactant | dioxane | 1 ml | O1CCOCC1 | C4H8O2
reactant | Water | O | H2O
reactant | HCl | 2 M | Cl | ClH
reactant | KOH | 2 M, 5.2 ml | [OH-].[K+]
product | 4-{3-Chloro-4-[3,3,3-trifluoro-2-hydroxy-1-methyl-2-(1-methyl-6-oxo-1,6-dihydro-pyridin-3-yl)-propyl]-phenoxy}-3-fluoro-benzoic acid | 99 mg | ClC=1C=C(OC2=C(C=C(C(=O)O)C=C2)F)C=CC1C(C(C(F)(F)F)(C1=CN(C(C=C1)=O)C)O)C | C23H18ClF4NO5
